US03939276
Disodium anthraquinone-2,6-dicarboxylate
Anthraquinone-2,6-dicarboxylic acid (0.50g) was dissolved in sodium carbonate solution (1 equivalent of sodium carbonate, 0.18g, in water, 100 ml) with warming. As the di-sodium salt did not separate on cooling, the solution was evaporated to approximately 1/3 volume and heavily diluted with ethanol. The solid which separated was filtered off, dried at 100°C. and analysed for the dihydrate. Analysis:

reactant | Anthraquinone-2,6-dicarboxylic acid | 0.50g | C1=C(C=CC=2C(C3=CC(=CC=C3C(C12)=O)C(=O)O)=O)C(=O)O | C16H8O6
reactant | sodium carbonate | 100 ml, 0.18g, 1 equivalent | C([O-])([O-])=O.[Na+].[Na+]
product | Disodium anthraquinone-2,6-dicarboxylate | C1=C(C=CC=2C(C3=CC(=CC=C3C(C12)=O)C(=O)[O-])=O)C(=O)[O-].[Na+].[Na+] | InChI=1S/C16H8O6.2Na/c17-13-9-3-1-7(15(19)20)5-11(9)14(18)10-4-2-8(16(21)22)6-12(10)13;;/h1-6H,(H,19,20)(H,21,22);;/q;2*+1/p-2
